US04678792
2-(2-Chlorobenzyl)-6,7-dimethyl-3,4-dihydroisoquinolinium chloride
The title compound is prepared analogously to Example A from 6,7-dimethyl-3,4-dihydroisoquinoline and 2-chlorobenzyl chloride in dioxan. Melting point: 127°-129° C.

reactant | 6,7-dimethyl-3,4-dihydroisoquinoline | CC=1C=C2CCN=CC2=CC1C | C11H13N
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-(2-Chlorobenzyl)-6,7-dimethyl-3,4-dihydroisoquinolinium chloride | [Cl-].ClC1=C(C[N+]2=CC3=CC(=C(C=C3CC2)C)C)C=CC=C1 | InChI=1S/C18H19ClN.ClH/c1-13-9-15-7-8-20(12-17(15)10-14(13)2)11-16-5-3-4-6-18(16)19;/h3-6,9-10,12H,7-8,11H2,1-2H3;1H/q+1;/p-1
